US09062092B2
Compound 98c. 2,2-Dimethyl-5-vinyl-[1,3]dioxane-5-carboxylic acid tert-butyl ester
A solution of N,N-diisopropylamine (1.51 g, 2.1 mL, 15 mmol) in anhydrous tetrahydrofuran (30 mL) was stirred at −78° C. under nitrogen. n-Butyl lithium (2.5 M in hexanes, 5.6 mL, 14 mmol) was added dropwise and the reaction mixture was stirred at −78° C. for 30 min. A solution of 5-acetyl-2,2-dimethyl-[1,3]dioxane-5-carboxylic acid tert-butyl ester (2.58 g, 10 mmol) in tetrahydrofuran (5 mL) was added and the reaction mixture was stirred at −78° C. for 15 min. A solution of N-phenyl-(bis-trifluoromethanesulfonamide) (3.93 g, 11 mmol) in tetrahydrofuran (30 mL) was added and the reaction mixture was stirred at −78° C. for 15 min. The cooling bath was removed and the reaction mixture was stirred at room temperature for 30 min. The solvent was evaporated and diethyl ether (50 mL) was added. The solution was cooled to 5° C. and was washed with cold sodium hydroxide solution (1 M, 3×30 mL) and brine. The organic solution was separated, dried over anhydrous magnesium sulfate, filtered and the solvent evaporated to afford 2,2-dimethyl-5-(1-trifluoromethanesulfonyloxy-vinyl)-[1,3]dioxane-5-carboxylic acid tert-butyl ester (3.84 g, 10 mmol) as a yellow oil. A solution of 2,2-dimethyl-5-(1-trifluoromethanesulfonyloxy-vinyl)-[1,3]dioxane-5-carboxylic acid tert-butyl ester (3.84 g, 10 mmol) and tri-n-butylamine (5.55 g, 7 mL, 30 mmol) in N,N-dimethylformamide (20 mL) was stirred at room temperature under nitrogen. Bis(triphenylphosphine)palladium(II) dichloride (350 mg, 0.5 mmol) and formic acid (920 mg, 0.77 mL, 20 mmol) were added and the reaction mixture was heated at 60° C. for 90 min. The reaction mixture was cooled to room temperature and ethyl acetate and water were added. The organic extracts were washed with water (5×) and brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using iso-hexanes/ethyl acetate 9:1 followed by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 19:1 to 9:1 to afford the title compound (1.09 g, 45%) as a clear oil. 1H NMR (300 MHz, CDCl3) δ 1.41 (s, 3H), 1.45 (s, 3H), 1.50 (s, 9H), 3.82 (d, J=11.8 Hz, 2H), 4.25 (d, J=11.8 Hz, 2H), 5.25 (d, J=17.2 Hz, 1H), 5.26 (d, J=10.7 Hz, 1H), 5.73 (dd, J=17.2, 11.7 Hz, 1H).

reactant | 2,2-dimethyl-5-(1-trifluoromethanesulfonyloxy-vinyl)-[1,3]dioxane-5-carboxylic acid tert-butyl ester | 10 mmol, 3.84 g | C(C)(C)(C)OC(=O)C1(COC(OC1)(C)C)C(=C)OS(=O)(=O)C(F)(F)F | C14H21F3O7S
reactant | tri-n-butylamine | 30 mmol, 7 mL, 5.55 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | formic acid | 20 mmol, 0.77 mL, 920 mg | C(=O)O | CH2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | Bis(triphenylphosphine)palladium(II) dichloride | 0.5 mmol, 350 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
product | 2,2-Dimethyl-5-vinyl-[1,3]dioxane-5-carboxylic acid tert-butyl ester | 1.09 g, 45% | C(C)(C)(C)OC(=O)C1(COC(OC1)(C)C)C=C | C13H22O4
